US07205302B2
(±)-3-(2-pyrrolidinyl)-1-propanol
0.73 g of (±)-3-(N-benzyloxycarbonylpyrrolidin-2-yl)-2-propen-1-ol was dissolved in 7 ml of ethanol and, after adding 200 mg of 5% palladium-carbon, the mixture was heated to 35° C. and hydrogenated at atmospheric pressure for 8 hours. A catalyst was removed by filtering the reaction solution and the filtrate was concentrated under reduced pressure to obtain 0.34 g of the desired compound as a pale yellow oily substance.

reactant | (±)-3-(N-benzyloxycarbonylpyrrolidin-2-yl)-2-propen-1-ol | 0.73 g | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C=CCO | C15H19NO3
solvent | ethanol | 7 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | (±)-3-(2-pyrrolidinyl)-1-propanol | 0.34 g | N1C(CCC1)CCCO | C7H15NO
